US07872028B2
A solution of tert-butyl (2S,3R)-4-(4-cyanobenzylamino)-1-cyclohexyl-3-hydroxybutan-2-ylcarbamate (600 mg, 1.5 mmol) in CH2Cl2 (30 mL) was treated with Teoc-OSu (762 mg, 3.0 mmol, 2.0 equiv) and Et3N (304 mg, 3.0 mmol, 2.0 equiv). The mixture was allowed to stir overnight at rt. LC-MS analysis showed that all of the free amine had been consumed. The solution was washed with water, 1.0 M aq HCl, and brine, then over dried over Na2SO4, filtered and evaporated to leave tert-butyl (2S,3R)-4-(N-(4-cyanobenzyl)-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-1-cyclohexyl-3-hydroxybutan-2-ylcarbamate. NMR analysis showed that the compound was of sufficient purity to use in the next step.

reactant | tert-butyl (2S,3R)-4-(4-cyanobenzylamino)-1-cyclohexyl-3-hydroxybutan-2-ylcarbamate | 1.5 mmol, 600 mg | C(#N)C1=CC=C(CNC[C@H]([C@H](CC2CCCCC2)NC(OC(C)(C)C)=O)O)C=C1 | C23H35N3O3
reactant | Teoc-OSu | 3.0 mmol, 762 mg, 2.0 equiv | C(=O)(OCC[Si](C)(C)C)ON1C(=O)CCC1=O | C10H17NO5Si
reactant | Et3N | 3.0 mmol, 304 mg, 2.0 equiv | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (2S,3R)-4-(N-(4-cyanobenzyl)-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-1-cyclohexyl-3-hydroxybutan-2-ylcarbamate | C(#N)C1=CC=C(CN(C(=O)OCC[Si](C)(C)C)C[C@H]([C@H](CC2CCCCC2)NC(OC(C)(C)C)=O)O)C=C1 | C29H47N3O5Si
